US08629160B2
Preparation of 2-(benzo[b]thiophen-3-yl)-2-(3-fluorophenylamino)acetic acid (I40)
A mixture of benzo[b]thiophen-3-ylboronic acid (400 mg, 2.25 mmol), 3-fluoroaniline (217 μl, 2.25 mmol), and 2-oxoacetic acid hydrate (207 mg, 2.25 mmol) in acetonitrile (20 ml) was stirred at room temperature for 4 hours. The solvent was removed under vacuum and the crude was used as such in the next step.

reactant | benzo[b]thiophen-3-ylboronic acid | 2.25 mmol, 400 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | 3-fluoroaniline | 2.25 mmol, 217 μl | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 2-oxoacetic acid hydrate | 2.25 mmol, 207 mg | O.O=CC(=O)O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(3-fluorophenylamino)acetic acid | S1C2=C(C(=C1)C(C(=O)O)NC1=CC(=CC=C1)F)C=CC=C2 | C16H12FNO2S
